US05614548
(±)-1-S-hexadecyl-2-O-methylthioglycerol
To a solution of 6.0 grams (0.01 mole) of (±)-1-S-hexadecyl-2-O-methyl-3-O-tritylthioglycerol in 100 milliliters of chloroform:methanol (3:1) was added 0.2 gram of p-toleunesulfonic acid and the reaction stirred at room temperature for 24 hours. The reaction mixture was neutralized with 1.0 gram of sodium bicarbonate and then extracted three times with 200 milliliter portions of water. The nonaqueous layer was separated and the solvent removed in vacuo to give the crude product as an oil. Silica gel chromatography (CHCl3 eluent) provided 3.1 grams (89%) of pure product as a semi-waxy solid. 1H-NMR (CDCl3): delta, 0.87(t, 3H, terminal methyl), 1.2-1.6[m, 28H, (CH2)14 ], 2.58 (m, 2H, --S--CH2), 2.62 (m, 2H, CH--CH2 --S--), 3.40(m, 1H, CH), 3.44(s, 3H, CH3 --O--), 3.75(m, 2H, CH2 --OH).

reactant | (±)-1-S-hexadecyl-2-O-methyl-3-O-tritylthioglycerol | 0.01 mole, 6.0 grams | C(CCCCCCCCCCCCCCC)SCC(OC)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C39H56O2S
reactant | sodium bicarbonate | 1.0 gram | C([O-])(O)=O.[Na+]
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform methanol | 100 milliliters | C(Cl)(Cl)Cl.CO
product | (±)-1-S-hexadecyl-2-O-methylthioglycerol | 3.1 grams, 89% | C(CCCCCCCCCCCCCCC)SCC(OC)CO | C20H42O2S
